US06803384B2
An aqueous solution of sodium hydroxide (1 M; 0.386 mL, 0.386 mmol) was added to a solution of N-[2,6-dichloro-4-[[[(3-hydroxyphenyl]methyl]amino]-carbonyl]benzoyl]-3-[(3,5-difluorobenzoyl)amino]-L-alanine, methyl ester (112 mg, 0.193 mmol) in methanol (2 mL). The solution was allowed to stir overnight and then concentrated. The residue was purified by HPLC and lyophilized to give N-[2,6-dichloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(3,5-difluorobenzoyl)amino]-L-alanine (43 mg, 39%) as a white solid.

reactant | sodium hydroxide | 0.386 mmol, 1 M, 0.386 mL | [OH-].[Na+]
reactant | N-[2,6-dichloro-4-[[[(3-hydroxyphenyl]methyl]amino]-carbonyl]benzoyl]-3-[(3,5-difluorobenzoyl)amino]-L-alanine, methyl ester | 0.193 mmol, 112 mg | ClC1=C(C(=O)N[C@@H](CNC(C2=CC(=CC(=C2)F)F)=O)C(=O)OC)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)Cl | C26H21Cl2F2N3O6
solvent | methanol | 2 mL | CO | CH4O
product | N-[2,6-dichloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(3,5-difluorobenzoyl)amino]-L-alanine | 43 mg, 39% | ClC1=C(C(=O)N[C@@H](CNC(C2=CC(=CC(=C2)F)F)=O)C(=O)O)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)Cl | C25H19Cl2F2N3O6
